US05814631
Synthesis of 3-(4-chlorobenzenesulfonyl)-7-fluoro-2,4(1H,3H)-quinazolinedione (Compound 31)
2.31 g (10.6 mmol) of 4-chlorobenzenesulfonylisocyanate and 1.50 g (9.67 mmol) of 2-amino-4-fluorobenzoic acid were treated in the same way as in Example 1 to obtain 2.87 g of the above-identified compound (yield 83.7%). Properties: colorless crystal, Melting point: >200° C., PMR (δppm, DMSO-d6): 6.86 (1H,d), 7.04 (1H,t), 7.76 (2H,d), 7.93 (1H,dd), 8.17 (2H,d), 11.65 (1H,br).

reactant | 4-chlorobenzenesulfonylisocyanate | 10.6 mmol, 2.31 g | ClC1=CC=C(C=C1)S(=O)(=O)N=C=O | C7H4ClNO3S
reactant | 2-amino-4-fluorobenzoic acid | 9.67 mmol, 1.50 g | NC1=C(C(=O)O)C=CC(=C1)F | C7H6FNO2
product | 3-(4-chlorobenzenesulfonyl)-7-fluoro-2,4(1H,3H)-quinazolinedione | 2.87 g, yield 83.7% | ClC1=CC=C(C=C1)S(=O)(=O)N1C(NC2=CC(=CC=C2C1=O)F)=O | C14H8ClFN2O4S
